Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Difficulties with balance
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The pt is a ___ year-old R-handed M w/ hx of HTN, HLD, and
cervical spondylosis who presents with newfound gait
unsteadiness. Hx obtained from pt at bedside.

Pt reports that earlier today he was walking to his son's truck
in the garage when he looked behind him and suddenly developed
sense of imbalance, continuing when he looked back forward. He
felt like being pulled from side to side and subsequently fell
down. Around the same time he developed lightheadedness and the
sensation of a "weight pushing me down". He grabbed onto nearby
truck to stand up and continued to feel felt unsteady. He used
support to ambulate but fell down again when leaning against the
garage. He sustained headstrike on this second fall w/ no LOC or
significant injury. While on the ground, he became diaphoretic
and nauseous w/ resultant emesis. Pt was soon found by nearby
___ and EMS was called to bring to ___ for
evaluation. At OSH, lab w/u was unremarkable and pt was given
IVFs at OSH w/ symptomatic improvement (pt not sure about his
gait as in bed throughout). Pt also underwent CT/CTA which 
showed
a questionable hypodensity in R cerebellum concerning for recent
infarct and diminutive R vertebral artery proximally. Based on
these imaging findings, pt was transferred to ___ for further
management. 

Throughout this event, pt endured no hearing changes/tinnitus,
vertigo, vision changes/diplopia, dysarthria, or dysphagia. No
chest pain/pressure, tachycardia or palpitations. No preferred
leaning on his feet. Pt states that apart from breakfast in AM
his only PO intake was 4 beers. Pt admits to being forgetful 
with
his BP medications recently, sometimes missing multiple days. Of
note, pt endorses a headache earlier in day radiating from R
posterior neck up to periorbital space, throbbing in nature, and
~10 minutes. He had a similar headache 1 week ago.

Pt has had 2 similar episodes of gait instability in the past,
one ___ days ago and the other ___ years ago. Both involved him
looking back at something, becoming unsteady and falling.
However, in these cases unsteadiness resolved after 10 minutes.  


History also notable for pt seeing "half-moon shaped flutters" 
in
his peripheral vision twice in the last 2 weeks. These are
monocular in nature and last for up to 5 minutes, relieved when
pt lies down. Endorses associated warmth in R facies w/ a
pressure-like feeling in head. He has attributed these episodes
to stress and poor BP, as he had a similar event ___ years ago
believed to be due to these factors (was evaluated by Ophthmo
with no concerning findings).
 
Social History:
___
Family History:
M-Stroke, HTN
___ (but not epilepsy?)
F-CHF  
 
Physical Exam:
>>> PHYSICAL EXAM ON ADMISSION:

Physical Exam:
Vitals: T: 97.4 P: 80 BP: 144/85 RR: 18 O2sat: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity,
tightness noted over R trap
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. HINTS exam
negative.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. Mirror test 
unremarkable.

-Gait: Able to sit on side of bed w/o leaning. Good initiation.
Narrow-based, slightly cautious gait but normal stride and arm
swing. Briefly able to walk in tandem with some difficulty.
Romberg absent.

>>> PHYSICAL EXAM ON DISCHARGE:

****

Physical Exam:
Vitals: T: 97.4 P: 80 BP: 144/85 RR: 18 O2sat: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity,
tightness noted over R trap
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. HINTS exam
negative.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. Mirror test 
unremarkable.

-Gait: Able to stand without support with eyes closed w/ minimal 
sway. Narrow based gait w/ good initiation, normal stride and 
arm swing. Able to ambulate with eyes closed towards a target w/ 
close approximation. 
 
Pertinent Results:
___ 08:45PM   WBC-8.1 RBC-4.42* HGB-13.2* HCT-38.6* MCV-87 
MCH-29.9 MCHC-34.2 RDW-12.7 RDWSD-40.3
___ 08:45PM   NEUTS-81.3* LYMPHS-12.7* MONOS-5.3 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-6.61* AbsLymp-1.03* AbsMono-0.43 
AbsEos-0.01* AbsBaso-0.01
___ 08:45PM   PLT COUNT-204
___ 08:45PM   ___ PTT-25.6 ___
___ 08:45PM   GLUCOSE-114* UREA N-17 CREAT-0.8 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-20* ANION GAP-15
___ 08:45PM   ALT(SGPT)-22 AST(SGOT)-23 ALK PHOS-62 TOT 
BILI-0.5
___ 08:45PM   LIPASE-21
___ 08:45PM   ALBUMIN-4.2 CALCIUM-8.7 PHOSPHATE-3.8 
MAGNESIUM-2.2
___ 08:47PM   LACTATE-1.6

RELEVANT IMAGES AND STUDIES:

XR ORBITS ___:
IMPRESSION: No radiopaque foreign densities projecting over the 
orbits to prevent the patient from having an MRI.

MR BRAIN ___:
________

 
Brief Hospital Course:
Mr. ___ is a ___ year-old right handed gentleman with 
a history of Hypertension, Hyperlipidemia and cervical 
spondylosis who presented with acute onset vertigo and gait 
unsteadiness. Neurologic exam did not show any concerning 
cerebellar or brainstem findings, and gait appeared improved 
from that described on admission. CT/CTA revealed hypodensity in 
R cerebellar hemisphere, and R vertebral occlusion apparent w/ 
distal reconstitution. MRI showed a small acute right cerebellar 
infarct, in the ___ distribution.

Etiology for his infarct most likely related to emboli vs. 
ischemia from right vertebral artery occlusion. MRA fat sat was 
equivocal for dissection, however our suspicion is that he 
likely has chronic atherosclerosis as well, and perhaps that 
positional changes of his neck led to transient impingement and 
decreased flow vs. thromboemboli formation in the diseased 
vessel. His LDL was 118, HDL 80, A1c5.3, TSH 3.0.

He was treated with dual antiplatelet therapy with aspirin 81mg 
and Plavix 75mg daily. This will be continued for one month, 
after which he should take aspirin 81mg daily and stop Plavix. 
His atorvastatin was increased from 20mg to 80mg daily. He may 
benefit from an outpatient repeat TTE to ensure no potential 
cardioembolic source of infarct, although likelihood was felt 
low. His symptoms completely resolved and his neurologic 
examination was essential unremarkable upon discharge.

TRANSITIONAL ISSUES: 
[ ] Treat with aspirin 81mg + Plavix 75mg daily x1 month, then 
aspirin 81mg daily as monotherapy.
[ ] His BP medications were held on admission, and only losartan 
was resumed. Please slowly resume his other medications 
(Doxazosin, Lasix) over the next ___ weeks, and continue 
titrating as an outpatient for long term goal normotension.
[ ] He should have PCP, ___ follow up after discharge. We 
suggest a TTE in the next ___ months for routine screen.
[ ] He will be arranged from Stroke Neurology follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*2 
2.  Clopidogrel 75 mg PO DAILY 
Take for 1 month, the stop. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
4.  Losartan Potassium 25 mg PO DAILY  
5. HELD- Doxazosin 2 mg PO DAILY  This medication was held. Do 
not restart Doxazosin until you see your PCP.
6. HELD- Furosemide 40 mg PO DAILY  This medication was held. Do 
not restart until you see your PCP.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute right cerebellar ischemic infarct 
Right vertebral artery stenosis, likely atherosclerotic 
Hypertension
Hyperlipidemia
Smoking
Alcohol use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of acute vertigo and 
unsteadiness resulting from an ACUTE ISCHEMIC INFARCT, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- High blood pressure
- High cholesterol

We are changing your medications as follows:  
- START taking Aspirin 81 mg daily.
- START takin Plavix 75mg daily, and stop after 1 month.
- Your blood pressure medications were briefly held during this 
admission, but they should be resumed slowly. You may resume 
your Losartan after you go home. Please see your PCP in the next 
___ weeks to slowly resume your other medications (Doxazosin, 
Lasix).

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team
 
Followup Instructions:
___